US04255429
The mixture of 2.39 g of 4-amino-2-chloro-6,7-dimethoxyquinazoline, 2.64 g of 3-(4-piperidinyl)-3-azaspiro-[5,5]-undecan-2,4-dione, 2.1 g anhydrous sodium carbonate and 25 ml of dimethylformamide is stirred under nitrogen at 150° for 10 hours. It is filtered, the filtrate evaporated, the residue dissolved in methylene chloride, the solution washed with aqueous sodium carbonate, dried, filtered and evaporated. The residue is triturated with 50 ml of isopropanol, the remainder taken up in isopropanol and the mixture acidified with hydrogen chloride, to yield the 3-[2-(4-amino-6,7-dimethoxy-2-quinazolinyl)-4-piperidinyl]-3-azaspiro[5,5]undecan-2,4-dione monohydrochloride melting at 290° (dec.).

reactant | 4-amino-2-chloro-6,7-dimethoxyquinazoline | 2.39 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | 3-(4-piperidinyl)-3-azaspiro-[5,5]-undecan-2,4-dione | 2.64 g | N1CCC(CC1)N1C(CC2(CC1=O)CCCCC2)=O | C15H24N2O2
reactant | sodium carbonate | 2.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 3-[2-(4-amino-6,7-dimethoxy-2-quinazolinyl)-4-piperidinyl]-3-azaspiro[5,5]undecan-2,4-dione monohydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)C1NCCC(C1)N1C(CC2(CC1=O)CCCCC2)=O | InChI=1S/C25H33N5O4.ClH/c1-33-19-11-16-17(12-20(19)34-2)28-24(29-23(16)26)18-10-15(6-9-27-18)30-21(31)13-25(14-22(30)32)7-4-3-5-8-25;/h11-12,15,18,27H,3-10,13-14H2,1-2H3,(H2,26,28,29);1H
